US05817693
(1RS,2SR,3RS)-2-Amino-3-(2-carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane
(1RS,2SR,3RS)-3-(2-tert--butoxycarbonylmethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid (100 mg, 0.18 mmol), triphenylphosphonyl azide (0.03 ml, 0.18 mmol), and triethylamine (73 mg, 0.72 mmol) were dissolved in dry benzene (4 ml) and heated at 40° C. for 2 h and at 75° C. for 2 h. The reaction mixture was then partitioned between 1N HCl and ethyl acetate. The organic layer was washed with water and brine, dried (MgSO4 anhyd.), filtered and evaporated to give the corresponding isocianate as a colorless oil. After purification by column chromatography (silica gel, ethyl acetate/hexane 30:70), the isocianate (100 mg) thus obtained was dissolved in 1M HCl in dioxane (3 mL) and the mixture was heated at 80° C. overnight. The solvent was removed in vacuo, the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4) and concentrated to give a colorless oil that was purified by HPLC (1:1 CNCH3:H2O(containig 0.1% TFA)) to produce the desired product (40 mg, 42%) as an off-white solid, m.p. 181°-182° C. (dec). EXAMPLE 125

reactant | (1RS,2SR,3RS)-3-(2-tert--butoxycarbonylmethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C33H36O9
reactant | triethylamine | 0.72 mmol, 73 mg | C(C)N(CC)CC | C6H15N
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
solvent | HCl | 1M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (1RS,2SR,3RS)-2-Amino-3-(2-carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane | 40 mg, 42% | NC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)OCC(=O)O)OCCC)C1=CC2=C(C=C1)OCO2 | C28H29NO7
